US08110581B2
Step 2. Methyl{6-[(5S)-1-oxo-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]dec-7-yl]pyridin-3-yl}carbamate
Methyl chloroformate (4.4 μL, 0.000057 mol) was added to a solution of (5S)-7-(5-aminopyridin-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one (15.8 mg, 0.0000478 mol), N,N-diisopropylethylamine (27 μL, 0.00016 mol) and methylene chloride (1.0 mL, 0.016 mol); and the mixture was stirred for 1 h. The volatiles were removed in-vacuo and the crude product was purified by prep-HPLC. LC-MS: 389.2 (M+H)+.

reactant | Methyl chloroformate | 0.000057 mol, 4.4 μL | ClC(=O)OC | C2H3ClO2
reactant | (5S)-7-(5-aminopyridin-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one | 0.0000478 mol, 15.8 mg | NC=1C=CC(=NC1)N1C[C@@]2(CCN(C2=O)C2CCOCC2)CCC1 | C18H26N4O2
reactant | N,N-diisopropylethylamine | 0.00016 mol, 27 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 0.016 mol, 1.0 mL | C(Cl)Cl | CH2Cl2
product | Methyl{6-[(5S)-1-oxo-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]dec-7-yl]pyridin-3-yl}carbamate | COC(NC=1C=NC(=CC1)N1C[C@@]2(CCN(C2=O)C2CCOCC2)CCC1)=O | C20H28N4O4
